2142-09-29 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Hcts 21->27.9 after 2 units. Received 1 more unit and hct 27.6 but
   checked while going in so will need repeat this am.
   Sgy is following as concern for developing toxic megacolon as well as
   may need colectomy depending on results of the scope. Suggested
   starting Cipro.
 CHEST PAIN - At [**2142-9-29**] 02:20 AM
   Drank 50% of golytely. Then, pt OOB to commode. Stated feeling
   nauseous. Had syncopal event without LOC. Was helped to knees by RN.
   did not hit head. Was able to be helped back into bed. Complained of
   CP. EKG done.
    -> no change from prior. Enzymes sent. 2units pRBCs and 500 mL NS
   infused with return of SBPs to120s and resolution of CP. Called GI to
   ask if should continue golytely. Can put down NGT if can
t tolerate PO
   but after 4mg zofran could tolerate PO golytely and had no further
   episodes of syncope or CP.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2142-9-28**] 11:00 PM
   Ciprofloxacin - [**2142-9-29**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2142-9-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-9-29**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 65 (56 - 107) bpm
   BP: 108/49(81) {75/34(44) - 149/78(92)} mmHg
   RR: 14 (10 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
           Total In:
                                                                  1,300 mL
                                                                  3,046 mL
   PO:
                                                                  1,000 mL
                                                                  1,000 mL
   TF:
   IVF:
                                                                    300 mL
                                                                  1,388 mL
   Blood products:
   658 mL
   Total out:
                                                                      0 mL
                                                                     50 mL
   Urine:
   NG:
   50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,300 mL
                                                                  2,996 mL
   Respiratory support
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   GEN: Slim asian male in NAD lying in bed.
   HEENT: NC/AT Sclera non-icteric. Dry MM
   LUNGS: CTAB
   HEART: RRR S1/S2 No M/R/G
   ABD: slightly TTP LLQ +BS
   EXTREM: No cyanosis/clubbing/edema
   NEURO: A&OX3
   Labs / Radiology
   244 K/uL
   9.4 g/dL
   248 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.9 mEq/L
   18 mg/dL
   102 mEq/L
   136 mEq/L
   27.6 %
   16.8 K/uL
        [image002.jpg]
                             [**2142-9-27**]  09:57 AM
                             [**2142-9-27**]  03:47 PM
                             [**2142-9-27**]  10:35 PM
                             [**2142-9-28**]  11:18 PM
                             [**2142-9-29**]  02:47 AM
   WBC
   15.0
   16.8
   Hct
   24.1
   24.4
   26.4
   27.9
   27.6
   Plt
   324
   244
   Cr
   0.9
   1.0
   TropT
   <0.01
   Glucose
   94
   248
   Other labs: PT / PTT / INR:18.3/26.2/1.7, CK / CKMB /
   Troponin-T:22//<0.01, ALT / AST:16/14, Alk Phos / T Bili:36/0.5,
   Differential-Neuts:70.5 %, Lymph:24.0 %, Mono:4.2 %, Eos:1.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.6 g/dL, LDH:136 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 4385**] is a 37 yo male with lower GI bleed in setting of active UC
   flare.
   .
   #. Lower GI bleed. Pt presented with 3-4 days of multiple bloody bowel
   movements. He has been transfused a total of 5 units of PRBCs and
   remains hemodynamically stable now after syncopal episode. BMs still
   bloody on golytely.  CT abd/pelvis showed colitis.
   - f/u serial Hcts Q6H, transfuse to Hct of 30
   - continue treatment of ulcerative colitis as below
   - 2 peripheral IVs
   - PPI IV BID
   - Colonoscopy tomorrow once finishes golytel  given continued GI bleed
   and falling HCT.
   - zofran for nausea
   - Surgery following and doing serial exams for toxic megacolon.
   .
   #. UC flare. Pt admitted with UC flare that began 6 weeks prior to
   admission. Now on IV steroids and flagyl with symptomatic improvement.
   - continue Asacol and enemas for now
   - continue IV steroids
   - continue Flagyl until C.diff negative x 3
   - appreciate GI recs
   - Clear liquids until midnight then NPO for procedure.
   .
   #. Leukocytosis. Pt admitted with WBC 19, likely secondary to steroids
   but will rule out GI infections.
   - obtain C.diff stool samples, stool cultures, stool O&P
   - continue empiric IV Flagyl for C.diff coverage
   - follow up blood cultures
   .
   #. Swollen right knee - Pt p/w swollen right knee, believed to be
   extra-colonic manifestation of UC. Also consider DVT as pt is at
   increased risk for DVT given his overall inflammatory state. LENI was
   negative.
   #. Hyperglycemia: Likely [**3-17**] steroids. will check FS daily. No
   treatment now esp since NPO.
   .
   #. FEN
 Maintenance fluids. Clears. replete lytes PRN
   .
   #. Access - PIVs x2
   .
   #. PPx - pneumoboots, Bactrim for PCP [**Name9 (PRE) **] given prolonged steroid use
   .
   #. Code - FULL CODE
   .
   #. Dispo: colonoscopy tomorrow.

2142-09-30 05:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 COLONOSCOPY - At [**2142-9-29**] 07:15 PM
   Administered 150mcg Fentanyl and 4mg versed during procedure. Biopsies
   obtained during procedure. No complications during procedure.
   HCT continued to fall despite 3U pRBC
   Emergent colonscopy - saw single lesion with surrounding WNL tissue
   concerning for Crohn's rather than UC.
   Coagulopathic with INR 1.5. Responded to IV vitamin K. Now on 3 days of
   PO vit K.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2142-9-30**] 12:29 AM
   Metronidazole - [**2142-9-30**] 12:29 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2142-9-30**] 12:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-9-30**] 05:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 69 (56 - 89) bpm
   BP: 101/62(70) {84/38(46) - 153/74(87)} mmHg
   RR: 24 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  7,339 mL
                                                                    663 mL
   PO:
                                                                  2,450 mL
             TF:
   IVF:
                                                                  3,597 mL
                                                                    663 mL
   Blood products:
                                                                  1,292 mL
   Total out:
                                                                  5,825 mL
                                                                    500 mL
   Urine:
                                                                  4,800 mL
                                                                    500 mL
   NG:
                                                                     50 mL
   Stool:
                                                                    975 mL
   Drains:
   Balance:
                                                                  1,514 mL
                                                                    163 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   247 K/uL
   11.3 g/dL
   248 mg/dL
   1.0 mg/dL
   25 mEq/L
   3.9 mEq/L
   18 mg/dL
   102 mEq/L
   136 mEq/L
   32.9 %
   11.8 K/uL
        [image002.jpg]
   COMPLETE BLOOD COUNT
                                     Hct
   [1][**2142-9-29**] 09:53PM
                                    32.9*
   [2][**2142-9-29**] 09:15AM
                                    30.3*
   [3][**2142-9-29**] 05:20AM
                                    25.5*
   [4][**2142-9-29**] 02:47AM
                                    27.6*
   [5][**2142-9-28**] 11:18PM
                                   27.9*#
   [6][**2142-9-28**] 07:35AM
                                    21.6*
   [7][**2142-9-27**] 10:35PM
                                    26.4*
   [8][**2142-9-27**] 03:47PM
                                    24.4*
   [9][**2142-9-27**] 09:57AM
                                    24.1*
   [10][**2142-9-27**] 04:55AM
                                    21.1*
   [11][**2142-9-26**] 09:40PM
                                    20.8*
   BASIC COAGULATION (PT, PTT, PLT, INR)
                                   INR(PT)
   [12][**2142-9-29**] 09:53PM
                                    1.2*
   [13][**2142-9-29**] 02:47AM
                                    1.7*
   [14][**2142-9-27**] 09:57AM
                                    1.2*
   [15][**2142-9-26**] 09:40PM
                                    1.2*
                             [**2142-9-27**]  09:57 AM
                             [**2142-9-27**]  03:47 PM
                             [**2142-9-27**]  10:35 PM
                             [**2142-9-28**]  11:18 PM
                             [**2142-9-29**]  02:47 AM
                             [**2142-9-29**]  05:20 AM
                             [**2142-9-29**]  09:15 AM
                             [**2142-9-29**]  11:00 AM
                             [**2142-9-29**]  09:53 PM
   WBC
   15.0
   16.8
   11.8
   Hct
   24.1
   24.4
   26.4
   27.9
   27.6
   25.5
   30.3
   32.9
   Plt
   324
   244
   247
   Cr
   0.9
   1.0
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   94
   248
   Other labs: PT / PTT / INR:14.3/23.4/1.2, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:16/14, Alk Phos / T Bili:36/0.5,
   Differential-Neuts:70.5 %, Lymph:24.0 %, Mono:4.2 %, Eos:1.1 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.6 g/dL, LDH:136 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 4385**] is a 37 yo male with lower GI bleed in setting of active UC
   flare. Interestingly, colonscopy yesterday was more consistent with
   colonic Crohn's disease.
   #. Lower GI bleed. Pt presented with 3-4 days of multiple bloody bowel
   movements. He has been transfused a total of 9 units of PRBCs and
   remains hemodynamically stable now after syncopal episode. BMs still
   bloody on golytely.  CT abd/pelvis showed colitis. Colonscopy showed a
   single lesion in the transverse colon without continuous lesions more
   consistent with CD than UC.
   - f/u serial Hcts Q6H, transfuse to Hct of 30
   - 2 peripheral IVs
   - PPI IV BID
   - zofran for nausea
   - Surgery following and doing serial exams for toxic megacolon.
   #. UC flare. Pt admitted with UC flare that began 6 weeks prior to
   admission. Now on IV steroids and flagyl with symptomatic improvement.
   Of note, underlying disease may be CD, but this does not change the
   management for now
   - continue IV steroids
   - continue Flagyl until C.diff negative x 3
   - appreciate GI recs
   - Clear liquids
   #. Leukocytosis. Pt admitted with WBC 19, likely secondary to steroids
   but will rule out GI infections.
   - obtain C.diff stool samples, stool cultures, stool O&P
   - continue empiric IV Flagyl for C.diff coverage
   - follow up blood cultures
   #. Swollen right knee - Pt p/w swollen right knee, believed to be
   extra-colonic manifestation of UC. Also consider DVT as pt is at
   increased risk for DVT given his overall inflammatory state. LENI was
   negative.
   #. Hyperglycemia: Likely [**3-17**] steroids. will check FS daily. No
   treatment now esp since NPO.
   #. Chest pain: Possibly MS, but could be cardiac given blood loss. MI
   ruled out with ECG and CEs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-9-29**] 03:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);